US07462671B2
Twenty parts by weight of methyl methacrylate, 80 parts by weight of acrylamide, 0.3 parts by weight of potassium persulfate and 1,500 parts by weight of ion-exchanged water were places in a reaction vessel, and the inside of the reaction vessel was filled with nitrogen gas while maintaining a temperature of 70° C. The reaction was continued until the monomer had completely changed to the polymer, and an aqueous solution of methyl methacrylate/acrylamide copolymer was obtained. The obtained aqueous solution was used as a suspension. The solution, in which 0.05 parts by weight of the methyl methacrylate/acrylamide copolymer suspension were dissolved in 165 parts by weight of ion-exchanged water, was placed in an autoclave made of stainless steel with a capacity of 5 l comprising baffles or a pfaudler-type stirring blade, and the solution was stirred at 400 rpm, and the inside of the system was filled with nitrogen gas. Next, the following mixed substance was added while stirring the reaction system, and the temperature was increased to 70° C. When the inside temperature reached 70° C., it was assumed that the polymerization had started, and after maintaining it under these conditions for 180 minutes, the polymerization had finished. Then, reaction system was cooled, and the polymer was separated, washed and dried according to a conventional method. Then, a bead-like copolymer (a-1) was made. The polymerization rate of the copolymer (a-1) was 98%, and the weight-average molecular weight was 90,000.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | methyl methacrylate acrylamide | C(C(=C)C)(=O)OC.C(C=C)(=O)N | InChI=1S/C5H8O2.C3H5NO/c1-4(2)5(6)7-3;1-2-3(4)5/h1H2,2-3H3;2H,1H2,(H2,4,5)
